US07141561B2
4-(2,2-Dimethoxyethylamino)phenol
Palladium(II) hydroxide (20% on carbon, 0.5 g) was added to a solution of (4-benzyloxyphenyl)-(2,2-dimethoxyethyl)amine (3.5 g) in ethanol (50 mL) under nitrogen. The nitrogen atmosphere was replaced by hydrogen and the mixture was shaken for 3 hours. The catalyst was filtered off and the filtrate was concentrated. The crude product was reacted further without purification.

reactant | (4-benzyloxyphenyl)-(2,2-dimethoxyethyl)amine | 3.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCC(OC)OC | C17H21NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium(II) hydroxide | 0.5 g | [OH-].[Pd+2].[OH-]
product | 4-(2,2-Dimethoxyethylamino)phenol | COC(CNC1=CC=C(C=C1)O)OC | C10H15NO3
